US04102885
To a solution of methoxycarbonylisocyanate (3.78 g. 0.0374 mole) in 45 ml. of dioxane is added 4-aminoveratrole (5.73 g., 0.037 mole) while maintaining a temperature of 20°-30°. After completing the addition, another 45 ml. portion of dioxane is added and the mixture then heated at reflux for a period of one hour. Evaporation of the solvent and crystallization of residual material from nitromethane provides analytically pure 1-(3,4-dimethoxyphenyl)-3-methoxycarbonylurea, m.p. 168°-170°.

reactant | methoxycarbonylisocyanate | 0.0374 mole, 3.78 g | COC(=O)N=C=O | C3H3NO3
reactant | 4-aminoveratrole | 0.037 mole, 5.73 g | NC=1C=C(C(=CC1)OC)OC | C8H11NO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3,4-dimethoxyphenyl)-3-methoxycarbonylurea | COC=1C=C(C=CC1OC)NC(=O)NC(=O)OC | C11H14N2O5
